### PR TITLE
[Merged by Bors] - refactor(CategoryTheory/Sites): remove universe parameter from `Functor.IsContinuous`

### PR DESCRIPTION
**Pull request by chrisflav**
The current definition of `Functor.IsContinuous` depends on a universe parameter `t` and says that `F : C ⥤ D` is continuous if precomposing with `F.op` preserves being a sheaf for presheaves with values in `Type t`. We show SGA 4 III 1.5, which says that if `t` is large enough such that both `C` and `D` are `t`-small, then being continuous for `t` implies being continuous for any universe `t'`. Using this, we drop the parameter from the definition and show it implies the old one.

---

- [x] depends on: #36448 
- [x] depends on: #36461 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Adjunction/Basic.lean [hunk 1]
```diff
@@ -699,6 +699,16 @@ noncomputable def toEquivalence (adj : F ⊣ G) [∀ X, IsIso (adj.unit.app X)]
   unitIso := NatIso.ofComponents fun X => asIso (adj.unit.app X)
   counitIso := NatIso.ofComponents fun Y => asIso (adj.counit.app Y)
 
+set_option backward.isDefEq.respectTransparency false in
+lemma bijective_map_comp_iff (adj : F ⊣ G) {X Y : C} (f : X ⟶ Y) (Z : D) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Basic.lean]: Could you add the dual statement:
```lean
lemma bijective_map_comp_iff' (adj : F ⊣ G) {X Y : D} (g : X ⟶ Y) (Z : C) :
    Function.Bijective (fun (f : Z ⟶ G.obj X) ↦ f ≫ G.map g) ↔
      Function.Bijective (fun (f : F.obj Z ⟶ X) ↦ f ≫ g) := by
  rw [← Function.Bijective.of_comp_iff' (adj.homEquiv _ _).bijective,
    ← Function.Bijective.of_comp_iff _ (adj.homEquiv _ _).symm.bijective]
  congr!
  simp
```

Comment (chrisflav) [reply Mathlib/CategoryTheory/Adjunction/Basic.lean]: Thanks for the suggestion! I have also renamed the two lemmas to `map_comp_bijective_iff` and `comp_map_bijective_iff` to match the naming convention for `Bijective`.
